US06156700
Preparation of 3-(6-Methoxy-m-tolyl)-6-fluoro-5-nitro-1,2-benzisothiazole
A mixture of 3-(6-methoxy-m-tolyl)-6-chloro-5-nitro-1,2-benzisothiazole (7.30 g, 0.0218 mol), potassium fluoride (6.33 g, 0.109 mol) 18-crown-6 (2.31 g, 0.0872 mol) and sulfolane is stirred 19 hours at 154° C., cooled to room temperature, and poured into ice water. The resultant solid is filtered and chromatographed on silica gel with methylene chloride to afford a solid which is recrystallized from acetonitrile to afford a tan powder. The powder is recrystallized from ethyl acetate to give the title compound as a tan solid (2.09 g, 29.9%) which is identified by NMR spectral analysis.

reactant | 3-(6-methoxy-m-tolyl)-6-chloro-5-nitro-1,2-benzisothiazole | 0.0218 mol, 7.30 g | COC1=CC=C(C=C1C)C1=NSC2=C1C=C(C(=C2)Cl)[N+](=O)[O-] | C15H11ClN2O3S
reactant | potassium fluoride | 0.109 mol, 6.33 g | [F-].[K+]
reactant | sulfolane | S1(=O)(=O)CCCC1 | C4H8O2S
product | 3-(6-Methoxy-m-tolyl)-6-fluoro-5-nitro-1,2-benzisothiazole | 2.09 g, 29.9% | COC1=CC=C(C=C1C)C1=NSC2=C1C=C(C(=C2)F)[N+](=O)[O-] | C15H11FN2O3S
